US08304419B2
To a solution of ethyl 5-formyl-3-methyl-1H-pyrrole-2-carboxylate (0.25 g, 1.38 mmol) in t-BuOH (50 mL) was added 2-methylbutene as a 2M solution (24 mL, 48.3 mmol). In a separate flask sodium dihydrogen phosphate monohydrate (1.3 g, 9.42 mmol) and sodium chlorite (1.1 g, 12.2 mmol) were dissolved in water (30 mL). The aqueous solution was added to the alcoholic reaction mixture dropwise and stirred for 3 h. The solution was acidified with aqueous 1N HCl to a pH ˜4 and EtOAc (100 mL) added. The layers were separated, the aqueous layer extracted with EtOAc (5×25 mL), the organic layers combined, dried over sodium sulfate, filtered and the volume reduced (˜50 mL). Ethyl acetate (100 mL) was added and the solution extracted with sat. sodium bicarbonate (5×25 mL), the aqueous layers combined, acidified with 1N HCl to pH˜4-5, saturated with NaCl and extracted with EtOAc (5×25 mL). The organic layers were combined, dried over sodium sulfate, filtered and evaporated to afford 5-[(ethyloxy)carbonyl]-4-methyl-1H-pyrrole-2-carboxylic acid (0.196 g, 72%) as a white solid along with 3-chloro-5-[(ethyloxy)carbonyl]-4-methyl-1H-pyrrole-2-carboxylic acid.

reactant | ethyl 5-formyl-3-methyl-1H-pyrrole-2-carboxylate | 1.38 mmol, 0.25 g | C(=O)C1=CC(=C(N1)C(=O)OCC)C | C9H11NO3
reactant | 2-methylbutene | CC(=C)CC | C5H10
reactant | sodium dihydrogen phosphate monohydrate | 9.42 mmol, 1.3 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 12.2 mmol, 1.1 g | Cl(=O)[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
solvent | water | 30 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-[(ethyloxy)carbonyl]-4-methyl-1H-pyrrole-2-carboxylic acid | 0.196 g, 72% | C(C)OC(=O)C1=C(C=C(N1)C(=O)O)C | C9H11NO4
